US04404207
To a suspension of 3.0 g of 8-amino-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid in 30 ml of glacial acetic acid was added 3.0 g of 2,5-dimethoxytetrahydrofuran and the mixture was heated on a steam bath for 1.5 hours. Cooling produced a solid which was separated by filtration to provide 6,7-dihydro-5-methyl-1-oxo-8-(1-pyrryl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, m.p. 303°-305° C. Analysis: Calculated for C18H16N2O3 : %C, 70.1; %H, 5.2; %N, 9.1; Found: %C, 69.5; %H, 5.1; %N, 9.2. The structural assignment was confirmed by infrared spectral analysis.

reactant | 8-amino-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 3.0 g | NC1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C14H14N2O3
reactant | 2,5-dimethoxytetrahydrofuran | 3.0 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 6,7-dihydro-5-methyl-1-oxo-8-(1-pyrryl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | CC1CCC2=C3C(C(C(=CN13)C(=O)O)=O)=CC=C2N2C=CC=C2 | C18H16N2O3
